US08802664B2
To a solution of {3-[(benzothiazol-2-yl)(1-methylpiperidin-4-yloxy)methyl]phenylsulfanyl}acetic acid methyl ester (30 mg) in absolute ethanol (1 mL) is added hydrazine hydrate (0.1 mL). The reaction mixture is heated at 80° C. for 18 hours. Solvent and volatiles are removed under reduced pressure. The residue is purified by chromatography (gradient dichloromethane/methanol from 95/5 to 80/20) to give {3-[benzothiazol-2-yl(1-methylpiperidin-4-yloxy)methyl]phenylsulfanyl}acetic acid hydrazide.

reactant | {3-[(benzothiazol-2-yl)(1-methylpiperidin-4-yloxy)methyl]phenylsulfanyl}acetic acid methyl ester | 30 mg | COC(CSC1=CC(=CC=C1)C(OC1CCN(CC1)C)C=1SC2=C(N1)C=CC=C2)=O | C23H26N2O3S2
reactant | hydrazine hydrate | 0.1 mL | O.NN
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | {3-[benzothiazol-2-yl(1-methylpiperidin-4-yloxy)methyl]phenylsulfanyl}acetic acid hydrazide | S1C(=NC2=C1C=CC=C2)C(C=2C=C(C=CC2)SCC(=O)NN)OC2CCN(CC2)C | C22H26N4O2S2
